US09340544B2
[2-Chloro-9-(2-ethoxy-ethyl)-9H-purin-6-yl]-(4-chloro-phenyl)-amine
Was prepared according to Example 3 from N-(4-chloro-phenyl)-formamide and 2,6-dichloro-9-(2-ethoxy-ethyl)-9H-purine.

reactant | N-(4-chloro-phenyl)-formamide | ClC1=CC=C(C=C1)NC=O | C7H6ClNO
reactant | 2,6-dichloro-9-(2-ethoxy-ethyl)-9H-purine | ClC1=NC(=C2N=CN(C2=N1)CCOCC)Cl | C9H10Cl2N4O
product | [2-Chloro-9-(2-ethoxy-ethyl)-9H-purin-6-yl]-(4-chloro-phenyl)-amine | ClC1=NC(=C2N=CN(C2=N1)CCOCC)NC1=CC=C(C=C1)Cl | C15H15Cl2N5O
